* legion-of-bom built-in behavioural SPICE models.
* The parts-library stand-in until real device models travel with each part
* (DESIGN 2.3 / okm). Behavioural, not vendor macro-models — enough to validate
* topology + slew behaviour, not datasheet-exact.
*
* Pin numbers below are taken from the KiCad symbol library that the circuits
* themselves instantiate — /Applications/KiCad/KiCad.app/Contents/SharedSupport/
* symbols/Amplifier_Operational.kicad_sym — never from model memory. Every
* subckt lists all of the package's pins in NUMERIC order, so the resolver's
* pin map is `1..n` and an unused section is simply left unconnected by the
* circuit rather than being absent from the model.

* --- Ideal op-amp: high-gain VCVS with a finite output resistance so a unity-
*     feedback follower has a well-conditioned operating point (a stiff 0-ohm
*     source in a 1e5 loop does not converge). Signals stay within the rails.
.subckt OPAMP_IDEAL out inm inp vminus vplus
Eg ng 0 inp inm 1e5
Rout ng out 100
.ends

* --- Dual op-amp (TL072/TL082/…): pins 1..8 = out1 in1- in1+ V- in2+ in2- out2 V+.
*     (KiCad `LM2904`, which `TL072` extends: unit 1 = 1/2/3, unit 2 = 5/6/7,
*      unit 3 = power 4=V- 8=V+.)
.subckt TL072 o1 i1m i1p vm i2p i2m o2 vp
Xa o1 i1m i1p vm vp OPAMP_IDEAL
Xb o2 i2m i2p vm vp OPAMP_IDEAL
.ends

* --- Quad op-amp (TL074/TL084/LM324/…): pins 1..14 =
*     out1 in1- in1+ V+ in2+ in2- out2 out3 in3- in3+ V- in4+ in4- out4.
*     (KiCad `LM2902`, which `TL074` extends: unit 1 = 1/2/3, unit 2 = 5/6/7,
*      unit 3 = 8/9/10, unit 4 = 12/13/14, unit 5 = power 4=V+ 11=V-.)
*     NOTE the rails are NOT where the dual has them: V+ moves 8 -> 4 and V-
*     moves 4 -> 11. Reusing the TL072 model for a quad silently ties section
*     A's output to a supply.
.subckt TL074 o1 i1m i1p vp i2p i2m o2 o3 i3m i3p vm i4p i4m o4
Xa o1 i1m i1p vm vp OPAMP_IDEAL
Xb o2 i2m i2p vm vp OPAMP_IDEAL
Xc o3 i3m i3p vm vp OPAMP_IDEAL
Xd o4 i4m i4p vm vp OPAMP_IDEAL
.ends

* --- LM13700 dual OTA + Darlington buffers. -----------------------------------
* Pins 1..16, both channels. The KiCad symbol splits the part into five units:
*   unit 3 = OTA A     1=IABC 2=DIODE_BIAS 3=In+ 4=In- 5=Iout
*   unit 4 = buffer A  7=in 8=out
*   unit 1 = OTA B    16=IABC 15=DIODE_BIAS 14=In+ 13=In- 12=Iout
*   unit 2 = buffer B 10=in 9=out
*   unit 5 = power     6=V- 11=V+
* The two channels are a mirror image of each other, which is exactly why a dual
* module gets its second channel for free — and why the model has to carry BOTH
* halves. A channel-A-only model cannot express a dual at all.
*
* OTA: I_out = IABC * tanh((V+ - V-)/(2*Vt)), Vt = 26 mV. IABC is the bias
* current pushed into the IABC pin, which sits ~2 diode drops above V-.
*
* MODELLING LIMITS — this is a behavioural model, not the part:
*   * the output current is drawn from the V- node for both polarities (the real
*     part sources from V+ when sourcing), so rail-current *magnitudes* are
*     right but their split between rails is not;
*   * the Darlington buffer is an ideal follower referenced to 0, so it draws no
*     rail current at all;
*   * there is NO die/substrate/thermal coupling term between the two channels.
*     Channel-to-channel interaction on a shared die is therefore a BENCH
*     question; this model can only answer the board-level one.
.subckt LM13700 iabcA dbA inpA innA ioutA vm bufinA bufoutA bufoutB bufinB vp ioutB innB inpB dbB iabcB
* -- channel A
VsenseA iabcA naA 0
DbiasA1 naA nbA DLM
DbiasA2 nbA vm DLM
BotaA vm ioutA I = I(VsenseA) * tanh( (V(inpA) - V(innA)) / 0.052 )
EbufA bufoutA 0 bufinA 0 1
* -- channel B
VsenseB iabcB naB 0
DbiasB1 naB nbB DLM
DbiasB2 nbB vm DLM
BotaB vm ioutB I = I(VsenseB) * tanh( (V(inpB) - V(innB)) / 0.052 )
EbufB bufoutB 0 bufinB 0 1
* -- terminals the model does not use, given a defined node so a circuit that
*    leaves them open (the diode-linearisation pins are open in normal use, per
*    the datasheet's own test configuration) stays well-conditioned.
RdbA dbA vm 1T
RdbB dbB vm 1T
Rvp vp vm 1T
.model DLM D(Is=1e-14)
.ends
